US09260441B2
Step B: 1-(Diethoxyphosphorylmethylsulfonyl)-4-(4-methyl-2-pyridyl)piperazine
1-(4-Methyl-2-pyridyl)-4-methylsulfonyl-piperazine (1.16 g, 4.54 mmol) was dissolved in anhydrous THF (80 ml) and cooled under nitrogen to −78° C. Lithium bis(trimethylsilyl)amide (1M in THF, 14 ml, 14 mmol) was added dropwise and the mixture was stirred at −78° C. for one hour. Diethyl chlorophosphate (3.1 g, 18 mmol) was added dropwise and stirring was continued for one hour at −78° C., after which the mixture was allowed to reach room temperature over three hours. A saturated solution of ammonium chloride was added and the mixture was extracted with DCM (3×), the combined organic layers were dried (sodium sulfate), concentrated under reduced pressure and the residue was purified by column chromatography (silica, gradient from 0 to 6% methanol in DCM) to give 1.44 g of a light-brown oil (3.68 mmol, yield 81%) MS (ESI) m/z=392.1 [M+1]+.

reactant | 1-(4-Methyl-2-pyridyl)-4-methylsulfonyl-piperazine | 4.54 mmol, 1.16 g | CC1=CC(=NC=C1)N1CCN(CC1)S(=O)(=O)C | C11H17N3O2S
reactant | Lithium bis(trimethylsilyl)amide | 14 mmol, 1M, 14 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Diethyl chlorophosphate | 18 mmol, 3.1 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 1-(Diethoxyphosphorylmethylsulfonyl)-4-(4-methyl-2-pyridyl)piperazine | 3.68 mmol, 1.44 g, yield 81% | C(C)OP(=O)(OCC)CS(=O)(=O)N1CCN(CC1)C1=NC=CC(=C1)C | C15H26N3O5PS
